US20010027200A1
2-Chloro-5-nitrobenzoic acid (20 g, 100 mmol) in TBF (200 mL) was treated with carbonyldiimidazole (CDI) (17.8 g, 110 mmol) and triethylamine (16 mL, 110 mmol) at room temperature. After 1 hr, a solution of ethylamine (70% in water, 10 mL) was added and the mixture was stirred for 18 h. Solvent was removed by evaporation and the residue was dissolved in methylene chloride, washed with 3% KOH solution followed by water (three times) until the aqueous phase extracts were colorless. The organic phase was dried over MgSO4, filtered, and the filtrate was concentrated to provide 10.4 g of N-ethyl-2-chloro-5-nitrobenzamide as light yellow crystals.

reactant | 2-Chloro-5-nitrobenzoic acid | 100 mmol, 20 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | carbonyldiimidazole | 110 mmol, 17.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 110 mmol, 16 mL | C(C)N(CC)CC | C6H15N
solvent | ethylamine | 10 mL | C(C)N | C2H7N
product | N-ethyl-2-chloro-5-nitrobenzamide | 10.4 g | C(C)NC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O | C9H9ClN2O3
